US07326715B2
2-Methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-ol (500 mg) and phosphorous oxychloride (2.5 ml) were heated to reflux for four hours. The reaction mixture was concentrated under reduced pressure and the remaining residue dissolved in ethyl acetate (50 ml) and washed with water (2×30 ml). Organics were separated, dried over sodium sulphate and solvent was removed under reduced pressure to yield 4-chloro-2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidine (478 mg) as a brown solid.

reactant | 2-Methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidin-4-ol | 500 mg | CSC1=NC(=CC(=N1)O)C1=CC(=CC=C1)C(F)(F)F | C12H9F3N2OS
reactant | phosphorous oxychloride | 2.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-methylsulfanyl-6-(3-trifluoromethyl-phenyl)-pyrimidine | 478 mg | ClC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)SC | C12H8ClF3N2S
